US04025532
By the procedure of Example 1, 2-chloroallyl 4-bromo-2-methyldithiocarbanilate is prepared substituting triethylammonium 4-bromo-2-methyldithiocarbanilate for the 4-chloro derivative of the same and cyclized as in Example 1 to yield 2-(4-bromo-o-tolyl)imino-4-methyl-1,3-dithiole in good yield and purity.

reactant | 2-chloroallyl 4-bromo-2-methyldithiocarbanilate | BrC1=CC(=C(NC(SCC(=C)Cl)=S)C=C1)C | C11H11BrClNS2
reactant | triethylammonium 4-bromo-2-methyldithiocarbanilate | BrC1=CC(=C(NC([S-])=S)C=C1)C.C(C)[NH+](CC)CC
product | 2-(4-bromo-o-tolyl)imino-4-methyl-1,3-dithiole | BrC1=CC(=C(C=C1)C)N=C1SC=C(S1)C | C11H10BrNS2
